US05093370
1,4-Bis(3-triethylammoniopropyl)benzene diiodide
304 mg of 1,4-bis(3-diethylaminopropyl)benzene was dissolved in 2.5 ml of absolute ethanol, and after dropwise addition of 1.56 g of ethyl iodide, the mixture was refluxed for 1.5 hours in dark. After cooling, ethanol was partially removed under reduced pressure, the resulting crystal was filtered, quickly washed with ethanol and dried in vacuo to obtain 461 mg of the title compound as a colorless crystal.

reactant | 1,4-bis(3-diethylaminopropyl)benzene | 304 mg | C(C)N(CCCC1=CC=C(C=C1)CCCN(CC)CC)CC | C20H36N2
reactant | ethyl iodide | 1.56 g | C(C)I | C2H5I
reactant | ethanol | 2.5 ml | C(C)O | C2H6O
product | 1,4-Bis(3-triethylammoniopropyl)benzene diiodide | 461 mg | [I-].[I-].C(C)[N+](CCCC1=CC=C(C=C1)CCC[N+](CC)(CC)CC)(CC)CC | InChI=1S/C24H46N2.2HI/c1-7-25(8-2,9-3)21-13-15-23-17-19-24(20-18-23)16-14-22-26(10-4,11-5)12-6;;/h17-20H,7-16,21-22H2,1-6H3;2*1H/q+2;;/p-2
